US05212164
B. (Z,E)-3,7,11-Trimethyl-2,6,10-dodecatrien-1-ol
Samples of Part A compound enriched in the 2Z isomer were obtained by flash chromatography. A stirred solution of 896 mg (3.39 mmol) of Part A compound, enriched in the Z isomer, in 15 mL of toluene at 0° C. under argon was treated dropwise with 6.8 mL (10.2 mmol) of 1.5M diisobutylaluminum hydride in toluene over 5 minutes. After 0.5 hours, the reaction mixture was quenched with 0.41 mL water, 0.41 mL 15% sodium hydroxide solution and then 1.2 mL water. A volume of 25 mL diethyl ether and 20 mL 1N HCl was then added with stirring at room temperature. The phases were separated and the aqueous layer washed twice with diethyl ether. The organic phases were combined, washed with brine, dried over MgSO4, and evaporated to give 915 mg of the crude mixture of isomers. Flash chromatography was performed on 125 g of silica gel packed and loaded with 10:1 hexane/ethyl acetate collecting 30 mL fractions. Fractions 36 to 58 were combined and evaporated to provide 560 mg (74%) of title compound in the form of the desired 2Z, 6E isomer.

reactant | diisobutylaluminum hydride | 10.2 mmol, 1.5M, 6.8 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hexane ethyl acetate | 30 mL | CCCCCC.C(C)(=O)OCC
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (Z,E)-3,7,11-Trimethyl-2,6,10-dodecatrien-1-ol | 560 mg, 74% | C/C(=C/CO)/CC\C=C(\CCC=C(C)C)/C | C15H26O
